US07419999B2
Intermediate 31.1. Dimethyl 2-oxo-3-phenylpropylphosphonate
To a solution of dimethyl methylphosphonate (2.16 mL, 20 mmol) in anhydrous THF (30 mL), cooled at −78° C. was added n-BuLi (1.6 M in hexane, 13.75 mL, 22 mmol). The mixture was stirred for 30 minutes at this temperature under nitrogen. Methyl phenylacetate (1.40 mL, 10 mmol) was added dropwise for 10 minutes. The mixture was stirred for 2 hours at −78° C., gradually was warm to room temperature. The mixture was quenched with addition of 1N HCl to pH 4-5. The organic layer was separated, washed with brine and dried over MgSO4. The residue was purified through flash chromatography on silica gel (MeOH: CH2Cl2=2:98) to give the product (1.50 g) with colorless oil in 62% yield. 1HNMR (CDCl3, ppm) δ 3.074 (d, J=21 Hz, 2H), 3.760 (s, 3H), 3.762 (s, 3H), 3.86 (s, 2H), 7.31 (m, 5H).

reactant | dimethyl methylphosphonate | 20 mmol, 2.16 mL | CP(OC)(OC)=O | C3H9O3P
reactant | n-BuLi | 22 mmol, 1.6 M, 13.75 mL | [Li]CCCC
reactant | Methyl phenylacetate | 10 mmol, 1.40 mL | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Dimethyl 2-oxo-3-phenylpropylphosphonate | 1.50 g, 62% yield | O=C(CP(OC)(OC)=O)CC1=CC=CC=C1 | C11H15O4P
